US08293798B2
4-({[(2-chloro-5-{[(2-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}methyl)benzoic acid
A solution of methyl 4-({[(2-chloro-5-{[(2-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}methyl)benzoate (113 mg, 0.25 mmol) in acetic acid (10 ml) and 2M HCl (10 ml) was heated at 90° C. for 6 hours. Heating continued at 90° C. overnight. A solid crashed out on cooling. The resulting solid was filtered, washed with water and dried to give the title compound as a white solid (67 mg). MS (ES+) m/z 430 [M+H]+ (C22H1735Cl2NO4). 1H-NMR (400 MHz, d6-DMSO) δ 4.51 (2H,d, J 6.0), 5.20 (2H,s), 7.11-7.16 (2H,m), 7.37-7.54 (6H,m), 7.59-7.62 (1H,m), 7.91-7.94 (2H,m), 9.10 (1H,t, J 6.0), 12.89 (1H, s).

reactant | methyl 4-({[(2-chloro-5-{[(2-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}methyl)benzoate | 0.25 mmol, 113 mg | ClC1=C(C=C(C=C1)OCC1=C(C=CC=C1)Cl)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C23H19Cl2NO4
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 2M, 10 ml | Cl | ClH
product | 4-({[(2-chloro-5-{[(2-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}methyl)benzoic acid | 67 mg | ClC1=C(C=C(C=C1)OCC1=C(C=CC=C1)Cl)C(=O)NCC1=CC=C(C(=O)O)C=C1 | C22H17Cl2NO4
